US04058502
1-n-Octadecylthio-2,3-bis(3-methyl-5-tert-butyl-4-hydroxyhydrocinnamoyloxy)propane
A mixture of 15.2 grams (0.06 mole) of methyl 3-methyl-5-tert-butyl-4-hydroxyhydrocinnamate and 10.14 grams (0.027 mole) of 1-n-octadecylthio-2,3-propanediol was heated to about 80° C and stirred until the mixture became homogenous. Sodium methylate (0.292 grams, 0.0054 mole) was added, and the resulting mixture was heated at 125°-145° C for 5 hours at atmospheric pressure and another 3 hours at 135°-145° C at 0.5-5 mm. The reaction mixture was then cooled and the catalyst neutralized with 0.5 grams (0.008 mole) of glacial acetic acid. Purification of the crude product was achieved by first removing the bulk (1.0 g) of the unreacted starting ester under high vacuum in a Hickman molecular still, followed by chromatography from silica gel using benzene as the eluting solvent.

reactant | methyl 3-methyl-5-tert-butyl-4-hydroxyhydrocinnamate | 0.06 mole, 15.2 grams | CC=1C=C(CCC(=O)OC)C=C(C1O)C(C)(C)C | C15H22O3
reactant | 1-n-octadecylthio-2,3-propanediol | 0.027 mole, 10.14 grams | C(CCCCCCCCCCCCCCCCC)SCC(CO)O | C21H44O2S
reactant | Sodium methylate | 0.0054 mole, 0.292 grams | C[O-].[Na+]
reactant | acetic acid | 0.008 mole, 0.5 grams | C(C)(=O)O | C2H4O2
product | 1-n-Octadecylthio-2,3-bis(3-methyl-5-tert-butyl-4-hydroxyhydrocinnamoyloxy)propane | C(CCCCCCCCCCCCCCCCC)SCC(COC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C)=O)OC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C)=O | C49H80O6S
